US04203987
8-Fluoro-2,3,4,4a-Tetrahydro-3-[(4-Pyridinyl)Methyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A solution of 2 g. (0.008 mole) of 8-fluoro-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one and 1.6 g. (0.01 mole) of 4-picolyl chloride, 3.5 g. of potassium carbonate and 0.5 ml. of triethylamine was stirred and refluxed in 100 ml. of acetone for 48 hours, cooled and filtered. The solvent was removed under reduced pressure. The residue was dissolved in ethanol and treated with dry hydrogen chloride saturated ether. The product hydrochloride was filtered and recrystallized from ethanol-water to yield 1.25 g. of the title compound as the dihydrochloride, m.p. 269°-272° C.

reactant | 8-fluoro-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | 0.008 mole | FC=1C=C2NC(C3N(C2=CC1)CCNC3)=O | C11H12FN3O
reactant | 4-picolyl chloride | 0.01 mole | N1=CC=C(C=C1)CCl | C6H6ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 8-Fluoro-2,3,4,4a-Tetrahydro-3-[(4-Pyridinyl)Methyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | FC=1C=C2NC(C3N(C2=CC1)CCN(C3)CC3=CC=NC=C3)=O | C17H17FN4O
